US07776872B2
To a solution of N,N′-bis(benzyloxycarbonyl)-N″-[2-(tert-butyl-dimethyl-silanyloxy)-1-(tert-butyl-dimethyl-silanyloxymethyl)-ethyl]-guanidine (12.48 g, 19.8 mmol) in 100 mL EtOH was added 5% Pd/C (0.5 g). The mixture was stirred under H2 at 50 psi. After 2 hours the mixture was filtered through a pad of celite and concentrated in vacuo to give N-[2-(tert-butyl-dimethyl-silanyloxy)-1-(tert-butyl-dimethyl-silanyloxymethyl)-ethyl]-guanidine (7.6 g, 106%) as a white foam: MS (M+H)=362.

reactant | N,N′-bis(benzyloxycarbonyl)-N″-[2-(tert-butyl-dimethyl-silanyloxy)-1-(tert-butyl-dimethyl-silanyloxymethyl)-ethyl]-guanidine | 19.8 mmol, 12.48 g | C(C1=CC=CC=C1)OC(=O)NC(=NC(CO[Si](C)(C)C(C)(C)C)C(O[SiH2]C(C)(C)C)(C)C)NC(=O)OCC1=CC=CC=C1 | C32H51N3O6Si2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-[2-(tert-butyl-dimethyl-silanyloxy)-1-(tert-butyl-dimethyl-silanyloxymethyl)-ethyl]-guanidine | 7.6 g, 106% | C(C)(C)(C)[Si](OCC(C(O[SiH2]C(C)(C)C)(C)C)NC(=N)N)(C)C | C16H39N3O2Si2
